US05856326
Step B: 1-(3-tert-Butoxycarbonylamino-2-(2-naphthylmethylamino)prop-1-yl)-2(S)-butyl-4-(1-naphthoyl)piperazine
The title compound was prepared according to the procedure described in Example 1, Step D except using 1-[(2-amino-3-tert-butoxycarbonylaminoprop-1-yl]-2(S)-butyl-4-(1-naphthoyl)piperazine (0.287 g, 0.613 mmol), naphthalene-2-carboxaldehyde (0.95 g, 0.613 mmol), sodium triacetoxyborohydride (0.194 g, 0.919 mmol), in dichloroethane (15 mL) at pH 6. The crude product was chromatographed on silica gel with 5% methanol in chloroform (Rf 0.30), and the title compound isolated as a foam. FAB ms (m+1) 609.

reactant | (2-amino-3-tert-butoxycarbonylaminoprop-1-yl]-2(S)-butyl-4-(1-naphthoyl)piperazine | 0.613 mmol, 0.287 g | NC(CN1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCCC)CNC(=O)OC(C)(C)C | C27H40N4O3
reactant | naphthalene-2-carboxaldehyde | 0.613 mmol, 0.95 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium triacetoxyborohydride | 0.919 mmol, 0.194 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | 1-(3-tert-Butoxycarbonylamino-2-(2-naphthylmethylamino)prop-1-yl)-2(S)-butyl-4-(1-naphthoyl)piperazine | C(C)(C)(C)OC(=O)NCC(CN1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCCC)NCC1=CC2=CC=CC=C2C=C1 | C38H48N4O3
